US06531502B1
5-Acetyl-2-oxindole (2 g) and 15 ml of trifluoroacetic acid in an ice bath was slowly treated with 1.8 g of triethylsilane and then stirred at room temperature for 5 hours. One ml of triethylsilane was added and stirring continued overnight. The reaction mixture was poured into ice water and the resulting precipitate collected by vacuum filtration, washed copiously with water and dried under vacuum to give 1.3 g (71% yield) of 5-ethyl-2-oxindole as a yellow solid.

reactant | 5-Acetyl-2-oxindole | 2 g | C(C)(=O)C=1C=C2CC(NC2=CC1)=O | C10H9NO2
reactant | trifluoroacetic acid | 15 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | triethylsilane | 1.8 g | C(C)[SiH](CC)CC | C6H16Si
reactant | triethylsilane | One ml | C(C)[SiH](CC)CC | C6H16Si
product | 5-ethyl-2-oxindole | 1.3 g, 71% yield | C(C)C=1C=C2CC(NC2=CC1)=O | C10H11NO
